* NGSPICE file created from integrator.ext - technology: gf180mcuD

.subckt nfet_03v3_7X6UHZ a_30_n124# a_n256_n319# a_n118_n124# a_n36_116#
X0 a_30_n124# a_n36_116# a_n118_n124# a_n256_n319# nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=0.3u
.ends

.subckt cap_mim_2p0fF_5GVGCQ m4_n1120_n1000# m4_n1240_n1120#
X0 m4_n1120_n1000# m4_n1240_n1120# cap_mim_2f0_m4m5_noshield c_width=10u c_length=10u
.ends

.subckt integrator Vin+ Vin- clk1 clk2
XXM1 m3_n146_n176# VSS OUT_DAC_PLUS clk2 nfet_03v3_7X6UHZ
XXM2 m3_1482_n185# VSS VSS clk1 nfet_03v3_7X6UHZ
XXM3 Vin+ VSS m3_n146_n176# clk1 nfet_03v3_7X6UHZ
XXM4 XM4/a_30_n124# VSS m3_1482_n185# clk2 nfet_03v3_7X6UHZ
XXM5 m3_331_n1220# VSS OUT_DAC_MIN clk2 nfet_03v3_7X6UHZ
XXM6 m3_1979_n1220# VSS VSS clk1 nfet_03v3_7X6UHZ
XC1 m3_n146_n176# m3_1482_n185# cap_mim_2p0fF_5GVGCQ
XXM7 Vin- VSS m3_331_n1220# clk1 nfet_03v3_7X6UHZ
XXM8 XM8/a_30_n124# VSS m3_1979_n1220# clk2 nfet_03v3_7X6UHZ
XC3 m3_331_n1220# m3_1979_n1220# cap_mim_2p0fF_5GVGCQ
.ends

